US07795267B2
1,1-Dimethylethyl [[3-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]phenyl]methyl]carbamate
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.20 g, 0.67 mmol), 3-[[(tert-butoxycarbonyl)amino]methyl]benzoic acid (0.17 g, 0.67 mmol), 1-hydroxybenzotriazole (0.10 g, 0.74 mmol) and triethylamine (69 mg, 0.68 mmol) in acetonitrile (10 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.20 g, 1.0 mmol), and the mixture was stirred at room temperature for 15 hours. To the reaction solution were added ethyl acetate and water. The separated organic layer was washed with saturated brine, dried over sodium sulfate, and then concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1 to 3:7) to obtain the title compound (0.27 g, yield 75%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.67 mmol, 0.20 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | 3-[[(tert-butoxycarbonyl)amino]methyl]benzoic acid | 0.67 mmol, 0.17 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | 1-hydroxybenzotriazole | 0.74 mmol, 0.10 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.68 mmol, 69 mg | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.0 mmol, 0.20 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl [[3-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]phenyl]methyl]carbamate | 0.27 g, yield 75% | O=C1OC(C2N1CCN(C2)C(=O)C=2C=C(C=CC2)CNC(OC(C)(C)C)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H33N3O5
